US05962458
Using an analogous procedure to that described in Example 51, 7-(2-bromoethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline (98 mg, 0.23 mmol), (prepared as described for the starting material in Example 51), was treated with 5-mercapto-1-methyltetrazole (40 mg, 0.35 mmol) to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(1-methyltetrazol-5-ylthio)ethoxy)-quinazoline hydrochloride (50 mg, 44%).

reactant | 7-(2-bromoethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline | 0.23 mmol, 98 mg | BrCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | C17H14BrClFN3O2
reactant | 5-mercapto-1-methyltetrazole | 0.35 mmol, 40 mg | SC1=NN=NN1C | C2H4N4S
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(1-methyltetrazol-5-ylthio)ethoxy)-quinazoline hydrochloride | 50 mg, 44% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCSC2=NN=NN2C)C=C1)F | InChI=1S/C19H17ClFN7O2S.ClH/c1-28-19(25-26-27-28)31-6-5-30-17-9-15-12(8-16(17)29-2)18(23-10-22-15)24-14-4-3-11(20)7-13(14)21;/h3-4,7-10H,5-6H2,1-2H3,(H,22,23,24);1H
